US06069145
(5R)-3-(3-Fluoro-4-{4-ethyl-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one (830 mg) was dissolved in pyridine (20 ml), and cooled to 0° C. Triethylamine (0.41 ml) and methanesulfonyl chloride (0.21 ml) were added, and stirring continued at ambient temperature for 2 hours. Solvent was evaporated and the residue dissolved in ethyl acetate. The resulting solution was washed with water, dried (MgSO4), and evaporated to give (5R)-3-(3-fluoro-4-{4-ethyl-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyloxymethyl)-oxazolidin-2-one (1.0 g) which was used without further purification.

reactant | (5R)-3-(3-Fluoro-4-{4-ethyl-3-oxopiperazin-1-yl}phenyl)-5-hydroxymethyloxazolidin-2-one | 830 mg | FC=1C=C(C=CC1N1CC(N(CC1)CC)=O)N1C(O[C@H](C1)CO)=O | C16H20FN3O4
reactant | Triethylamine | 0.41 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.21 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (5R)-3-(3-fluoro-4-{4-ethyl-3-oxopiperazin-1-yl}phenyl)-5-(methanesulfonyloxymethyl)-oxazolidin-2-one | 1.0 g | FC=1C=C(C=CC1N1CC(N(CC1)CC)=O)N1C(O[C@H](C1)COS(=O)(=O)C)=O | C17H22FN3O6S
